US06995162B2
2,2-Dimethyl-6-nitro-4H-benzo[1,4]oxazin-3-one
2-Bromo-N-(2-hydroxy-5-nitro-phenyl)-2-methyl-propionamide was mixed with K2CO3 in 20 mL of DMF and stirred overnight at 50° C. The reaction mixture was poured into ice water. The precipitate was collected by filtration and washed with H2O. The crude compound was recrystallized from EtOH.

reactant | 2-Bromo-N-(2-hydroxy-5-nitro-phenyl)-2-methyl-propionamide | BrC(C(=O)NC1=C(C=CC(=C1)[N+](=O)[O-])O)(C)C | C10H11BrN2O4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2,2-Dimethyl-6-nitro-4H-benzo[1,4]oxazin-3-one | CC1(OC2=C(NC1=O)C=C(C=C2)[N+](=O)[O-])C | C10H10N2O4
